US07053088B2
(b) (6-Iodo-pyrimidin-4-yl)-quinolin-7-yl-amine
This compound could be prepared from 4,6-diiodo-pyrimidine and 7-aminoquinoline in the presence of K2CO3 and DMF.

reactant | 4,6-diiodo-pyrimidine | IC1=NC=NC(=C1)I | C4H2I2N2
reactant | 7-aminoquinoline | NC1=CC=C2C=CC=NC2=C1 | C9H8N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (6-Iodo-pyrimidin-4-yl)-quinolin-7-yl-amine | IC1=CC(=NC=N1)NC1=CC=C2C=CC=NC2=C1 | C13H9IN4
